US04667010
64.0 g (0.21 mole) of 1,6-bis(methoxyphenyl)hexane, 107.4 g of 48% hydrobromic acid and 281.2 g of pure acetic acid are put into a flask and the thick suspension is slowly heated to gentle reflux. The clear solution so obtained is then refluxed overnight. After cooling to room temperature, the slightly brownish red solution is stirred into 3 liters of water. The precipitate is isolated by filtration, washed with water until neutral and dried in vacuo at 70°-80° C., affording 55.6 g (97.9% of theory) of 1,6-bis(4-hydroxyphenyl)hexane with a melting point of 143°-144° C.

reactant | 1,6-bis(methoxyphenyl)hexane | 0.21 mole, 64.0 g | COC1=C(C=CC=C1)CCCCCCC1=C(C=CC=C1)OC | C20H26O2
reactant | hydrobromic acid | 107.4 g | Br | BrH
reactant | acetic acid | 281.2 g | C(C)(=O)O | C2H4O2
reactant | water | 3 liters | O | H2O
product | 1,6-bis(4-hydroxyphenyl)hexane | 55.6 g, 97.9% | OC1=CC=C(C=C1)CCCCCCC1=CC=C(C=C1)O | C18H22O2
